US09102703B2
Diethyl 2-(3-(2-chlorophenyl)allyl)-2-(prop-2-yn-1-yl)malonate (S15).
An oven-dried, 100 mL three-necked round-bottomed flask under a nitrogen atmosphere was charged with diethyl 2-(prop-2-yn-1-yl)malonate S13 (1.8 g, 9.1 mmol), (E)-1-(3-bromoprop-1-en-1-yl)-2-chlorobenzene S14 (2.1 g, 11.0 mmol), and THF (60 mL). The solution was cooled to 0° C. in an ice bath for 15 min, then NaH (0.43 g of a 60% dispersion in mineral oil, 11.0 mmol) was added in one portion. The solution was stirred at 0° C. for 2 h. The consumption of the starting material was monitored by TLC (AcOEt/n-hexane 0.5:9.5). The reaction was then quenched with sat'd aq ammonium chloride solution (70 mL). The layers were separated and the aqueous phase was extracted with AcOEt (3×50 mL). The combined organic layers were dried over Na2SO4, gravity filtered, and concentrated under reduced pressure. The reaction residue was purified by silica gel flash chromatography, eluting with AcOEt/n-hexane 0.5:9.5, to provide 2.55 g of the title compound as a yellow oil in 81% yield.

reactant | diethyl 2-(prop-2-yn-1-yl)malonate | C(C#C)C(C(=O)OCC)C(=O)OCC | C10H14O4
reactant | (E)-1-(3-bromoprop-1-en-1-yl)-2-chlorobenzene | BrC/C=C/C1=C(C=CC=C1)Cl | C9H8BrCl
reactant | NaH | [H-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Diethyl 2-(3-(2-chlorophenyl)allyl)-2-(prop-2-yn-1-yl)malonate | 2.55 g, 81% yield | ClC1=C(C=CC=C1)C=CCC(C(=O)OCC)(C(=O)OCC)CC#C | C19H21ClO4
